US07820673B2
88a) tert-butyl 4-(((2,5-dimethyl-1H-imidazol-4-yl)methyl)amino)-1-piperidinecarboxylate
N-(tert-butoxycarbonyl-4-piperidinyl)amine (4.8 g), 2,5-dimethylimidazole-4-carbaldehyde (3.0 g) and acetic acid (1.7 ml) were dissolved in 1,2-dichloroethane (50 ml), under ice-cooling, sodium triacetoxyborohydride (7.7 g) was added thereto, and mixed at room temperature for 15 hours. The reaction solution was poured into an aqueous potassium carbonate solution, and extracted with chloroform. The extract was dried over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure, and then the residue was purified with silica gel column to obtain a pale yellow oily title compound (8.0 g, quantitative).

reactant | N-(tert-butoxycarbonyl-4-piperidinyl)amine | 4.8 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N | C10H20N2O2
reactant | 2,5-dimethylimidazole-4-carbaldehyde | 3.0 g | CC=1NC(=C(N1)C=O)C | C6H8N2O
reactant | sodium triacetoxyborohydride | 7.7 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
solvent | acetic acid | 1.7 ml | C(C)(=O)O | C2H4O2
product | tert-butyl 4-(((2,5-dimethyl-1H-imidazol-4-yl)methyl)amino)-1-piperidinecarboxylate | 8.0 g | CC=1NC(=C(N1)CNC1CCN(CC1)C(=O)OC(C)(C)C)C | C16H28N4O2
